US06706703B2
1,4-Bis[5-(4-hydroxy-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine
To a solution of 1,4-bis[5-(4-benzyloxy-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine (27.0 mg, 0.037 mmol) in methanol (1.0 mL) were added 10% palladium on charcoal (14.0 mg) and ammonium formate (14.0 mg, 0.220 mmol), and the resulting mixture was stirred at 70° C. for 2 hours. Insoluble materials were removed by filtration through Celite, and the filtrate was concentrated under reduced pressure. A solution of the residue in chloroform was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from methanol-chloroform-diethyl ether to yield the title compound as pale brown needles (melting point: 200.0-202.0° C.) (17.0 mg, yield: 85%).

reactant | 1,4-bis[5-(4-benzyloxy-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine | 0.037 mmol, 27.0 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=C(C(=C1)OC)OCC1=CC=CC=C1)OC)OC | C45H46N4O6
reactant | ammonium formate | 0.220 mmol, 14.0 mg | C(=O)[O-].[NH4+]
solvent | methanol | 1.0 mL | CO | CH4O
catalyst | palladium on charcoal | 14.0 mg | [Pd] | Pd
product | 1,4-Bis[5-(4-hydroxy-3,5-dimethoxyphenyl)-2-pyridyl]hexahydro-1,4-diazepine | 17.0 mg, yield: 85% | OC1=C(C=C(C=C1OC)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC(=C(C(=C1)OC)O)OC)OC | C31H34N4O6
